* ============================================================================
* Example testbench: general-purpose comparator family (cmp_gp.lib), 3.3 V rail.
* Shows the low-area "normal" NIN and PIN cells, plus a FIN=2 "lower offset"
* NIN cell, responding to a +/-100 mV differential step. Run: ngspice -b tb_example.cir
* Sizing matches the shipped variants: normal = WSCALE=0.5, WIN=20u(N)/40u(P),
* LIN=1u, LANA=1u, FIN=1; lower-offset = same but FIN=2.
* ============================================================================
.include "../../../autohv_bicmos180_case.lib"
.include "cmp_gp.lib"
.param case=0 PROC_ON=0 MM_ON=0

Vdd vdd 0 3.3

* ---- NMOS-input "normal" (gp), common mode 3.0 V ----
Vcmn cmn 0 2.0
Vrefn refn cmn 0                                   ; V- reference = CM
Vsign sign cmn PULSE(-0.1 0.1 1u 1n 1n 2u 4u)     ; V+ steps +/-100 mV
Ibn  vdd ibp_n 5u                                  ; source IREF into ibp_5uA pin (from vdd)
Xn   sign refn outn vdd 0 ibp_n vdd CMP_NIN IREF=5u WSCALE=0.5 WIN=20u LIN=1u LANA=1u FIN=1
CLn  outn 0 1p

* ---- NMOS-input "lower offset" (FIN=2): same cell, bigger stage-1 ----
Vcml cml 0 2.0
Vrefl refl cml 0
Vsigl sigl cml PULSE(-0.1 0.1 1u 1n 1n 2u 4u)
Ibl  vdd ibp_l 5u
Xl   sigl refl outl vdd 0 ibp_l vdd CMP_NIN IREF=5u WSCALE=0.5 WIN=20u LIN=1u LANA=1u FIN=2
CLl  outl 0 1p

* ---- PMOS-input "normal" (gp), common mode 1.5 V ----
Vcmp cmp 0 1.0
Vrefp refp cmp 0
Vsigp sigp cmp PULSE(-0.1 0.1 1u 1n 1n 2u 4u)
Ibp  ibn_p 0 5u                                    ; sink IREF from ibn_5uA pin (to vss)
Xp   sigp refp outp vdd 0 ibn_p vdd CMP_PIN IREF=5u WSCALE=0.5 WIN=40u LIN=1u LANA=1u FIN=1
CLp  outp 0 1p

.control
  tran 0.5n 5u
  meas tran tpd_nin TRIG v(sign) VAL=2.0 RISE=1 TARG v(outn) VAL=1.65 RISE=1
  meas tran tpd_lo  TRIG v(sigl) VAL=2.0 RISE=1 TARG v(outl) VAL=1.65 RISE=1
  meas tran tpd_pin TRIG v(sigp) VAL=1.0 RISE=1 TARG v(outp) VAL=1.65 RISE=1
  * plot v(sign) v(outn) v(outl) v(outp)   ; uncomment for interactive waveforms
.endc
.end
